US05070089
Methyl 4-(2-hydroxybenzyl)-1-piperazinecarbodithioate (Com. No. 4)
In 10 ml of ethanol was dissolved 0.86 g of 35% formalin. To the solution was dropwise added under chilling with ice a solution of 2.35 g of methyl 1-piperazinecarbodithioate in 4 ml of ethanol. The mixture was then stirred for 30 min. at room temperature. The mixture was refluxed overnight under heating after addition of a solution of 2.82 g of phenol in 4 ml of ethanol under chilling with ice and subsequent stirring at room temperature for 3 hours. The reaction mixture was cooled to room temperature. A half amount of the solvent was distilled off under reduced pressure. To the residue was added 5 ml of ether to precipitate crystals. The crystals were collected by filtration and washed with 15 ml of ether to give 1.63 g of crude crystals of the desired compound. The crude crystals were then dissolved in chloroform. To the chloroform solution was added ethanol in twice amount of the amount of the chloroform. Precipitated crystals were collected by filtration to give 0.95 g of the desired compound as a white crystalline product, m.p. 147° C., yield 33.4%.

reactant | formalin | 0.86 g | C=O | CH2O
reactant | methyl 1-piperazinecarbodithioate | 2.35 g | N1(CCNCC1)C(=S)SC | C6H12N2S2
reactant | phenol | 2.82 g | C1(=CC=CC=C1)O | C6H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Methyl 4-(2-hydroxybenzyl)-1-piperazinecarbodithioate | 0.95 g, yield 33.4% | OC1=C(CN2CCN(CC2)C(=S)SC)C=CC=C1 | C13H18N2OS2
